US07462608B2
Preparation of 2-chloro-5-nitrobenzoyl alcohol 30 g of 2-chloro-5-nitrobenzaldehyde was dissolved in 500 mL of methanol and cooled to 0° C. A solution of 10 g of sodium borohydride in 100 mL of water was then added dropwise over 90 minutes while maintaining the temperature below 10° C. The resultant reaction mixture was then stirred for one hour, then acidified with 2N HCl and left stirring overnight. The solids were then, washed with water and dried, to produce 27 g of 2-chloro-5-nitrobenzyl alcohol as a white solid.

reactant | 2-chloro-5-nitrobenzoyl alcohol | 30 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-chloro-5-nitrobenzaldehyde | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | sodium borohydride | 10 g | [BH4-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 500 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 2-chloro-5-nitrobenzyl alcohol | 27 g | ClC1=C(CO)C=C(C=C1)[N+](=O)[O-] | C7H6ClNO3
